US04492702
3-(n-Butyl)-4-hydroxy-1-(3-methylthiophenyl)-1,8-naphthyridin-2(1H)one
Prepare the 3-(n-butyl)-4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)one by the process of Example 1 by replacing the methyl 2-(3-methylthiophenylamino)-3-pyridine carboxylate with an equivalent amount of methyl 2-phenylamino-3-pyridine carboxylate.

reactant | 3-(n-butyl)-4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)one | C(CCC)C=1C(N(C2=NC=CC=C2C1O)C1=CC=CC=C1)=O | C18H18N2O2
reactant | methyl 2-(3-methylthiophenylamino)-3-pyridine carboxylate | CSC=1C=C(C=CC1)NC1=NC=CC=C1C(=O)OC | C14H14N2O2S
reactant | methyl 2-phenylamino-3-pyridine carboxylate | C1(=CC=CC=C1)NC1=NC=CC=C1C(=O)OC | C13H12N2O2
product | 3-(n-Butyl)-4-hydroxy-1-(3-methylthiophenyl)-1,8-naphthyridin-2(1H)one | C(CCC)C=1C(N(C2=NC=CC=C2C1O)C1=CC(=CC=C1)SC)=O | C19H20N2O2S
